US05393429
Butyl methacrylate was prepared by reacting methacrylic acid and n-butyl alcohol. Butyl alcohol and methacrylic acid were mixed at the ratio of 1.2 (mole), and para-toluene sulfonic acid was added to be 0.75% (by weight) to the mixture as esterification catalyst. The mixture was charged into the reactor, and heated by steam. The reaction temperature was kept at 100° C. by adjusting the pressure in the reactor. Heating was continued until the reaction was completed by distilling all the water formed by the reaction.

reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | para-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | Butyl alcohol | C(CCC)O | C4H10O
product | Butyl methacrylate | C(C(=C)C)(=O)OCCCC | C8H14O2
